US06864284B2
Synthesis of 6-Deoxyascorbate Lysine
6-Deoxybromo ascorbate (8 mmoles) is reacted with lysine (10 mmoles) in dry pyridine to give the desired product. The α-amino group of lysine is protected so that the ε-group is available for reaction. The reaction is carried out overnight. Pyridine is removed under reduce pressure, poured in ice, extracted with ether, washed with water, dried over sodium sulfate. Ether is removed and crystallized from ethanol.

reactant | 6-Deoxybromo ascorbate | 8 mmoles | Br[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C
reactant | lysine | 10 mmoles | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Deoxyascorbate Lysine | N[C@@H](CCCCN)C(=O)O.O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)C | InChI=1S/C6H14N2O2.C6H8O5/c7-4-2-1-3-5(8)6(9)10;1-2(7)5-3(8)4(9)6(10)11-5/h5H,1-4,7-8H2,(H,9,10);2,5,7-9H,1H3/p-1/t5-;2-,5+/m00/s1
